US09302988B2
Step 2: 4-Chloro-2-fluoro-1-(1-iodo-2-tosylethyl)benzene
To a mechanically stirred mixture of impure 4-chloro-2-fluoro-1-vinylbenzene (26.76 g, 154 mmol), sodium p-toluenesulfinate (28.8 g, 161 mmol) and NaI (34.6 g, 231 mmol) in MeCN (700 mL) was added (NH4)2Ce(NO3)6 (169 g, 308 mmol) portionwise. The mixture was stirred under a nitrogen atmosphere during 3 h at room temperature. The liquid was separated by decantation and the solids were washed with MeCN (3×100 mL). The solvent was evaporated in vacuo and re-dissolved in EtOAc (500 mL). The organic layer was washed with brine (400 mL), aqueous 10 wt % Na2S2O3 (2×200 mL) and brine (200 mL). The organic layer was dried (Na2SO4) and the solvent was evaporated to arrive at 51.86 g of crude title compound as a yellow solid.

reactant | 4-chloro-2-fluoro-1-vinylbenzene | 154 mmol, 26.76 g | ClC1=CC(=C(C=C1)C=C)F | C8H6ClF
reactant | sodium p-toluenesulfinate | 161 mmol, 28.8 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | NaI | 231 mmol, 34.6 g | [Na+].[I-]
solvent | MeCN | 700 mL | CC#N | C2H3N
product | 4-Chloro-2-fluoro-1-(1-iodo-2-tosylethyl)benzene | ClC1=CC(=C(C=C1)C(CS(=O)(=O)C1=CC=C(C)C=C1)I)F | C15H13ClFIO2S
